US05488058
To a solution of 4-hydroxyphenyldisulfide (650 mg, 2.60 mmol) in 10 mL of anhydrous N,N-dimethylformamide at 10° C. was added sodium hydride (230 mg, 5.75 mmol, 60% dispersion in mineral oil). After stirring for 15 minutes, chloromethylmethyl ether (0.44 mL, 5.75 mmol) was added via syringe. The reaction was warmed to ambient temperature and stirred for 0.5 hours. The mixture was distributed between brine/ethyl acetate (20 mL each). The layers were separated and the aqueous phase extracted with ethyl acetate (2×20 mL). The organic was dried (sodium sulfate) and concentrated to a yellow oil (993 mg, 100%). An analytical sample of 4-(methoxymethyloxy)-phenyldisulfide was prepared by chromatography (silicon dioxide, 4% ethyl acetate/hexanes). 1H NMR (DMSO-d6) δ 7.40 (d, J=6.9 Hz, 4H), 7.00 (d, J=6.9 Hz, 4H), 5.15 (s, 4H), 3.32 (s, 6H). FD mass spec: 338. Anal. Calcd. for C16H18O4S2 : C, 56.78; H, 5.36. Found: C, 57.08; H, 5.44.

reactant | 4-hydroxyphenyldisulfide | 2.60 mmol, 650 mg | OC1=CC=C(C=C1)SSC1=CC=C(C=C1)O | C12H10O2S2
reactant | sodium hydride | 5.75 mmol, 230 mg | [H-].[Na+]
reactant | chloromethylmethyl ether | 5.75 mmol, 0.44 mL | ClCOC | C2H5ClO
reactant | brine ethyl acetate | 20 mL | [Cl-].[Na+].O.C(C)(=O)OCC
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(methoxymethyloxy)-phenyldisulfide | COCOC1=CC=C(C=C1)SSC1=CC=C(C=C1)OCOC | C16H18O4S2
